US04592906
2-Ethylhexyl 4-dimethylaminocinnamate
To a mixture of ethyl 4-dimethylaminocinnamate (40 g), 2 ethylhexanol (60 ml) and toluene (60 ml) was added sodium metal (0.1 g). The stirred mixture was heated to 130° and kept at this temperature until ethanol could no longer be detected in the distillate. The mixture was cooled and washed with water. The toluene was removed on a rotary evaporator and the residue fractionated under high vacuum. The main fraction of 2-ethylhexyl 4-dimethylaminocinnamate distilled at 182°-3° C./0.2 mm. It was a pale yellow viscous liquid (38 g) which solidified in the freezing compartment of a refrigerator, and remelted at -5° C.λmax 360 nm. Equivalent by non-aqueous titration=290 (Theory 291).

reactant | ethyl 4-dimethylaminocinnamate | 40 g | CN(C1=CC=C(C=CC(=O)OCC)C=C1)C | C13H17NO2
reactant | ethylhexanol | 60 ml | C(C)C(CCCCC)O | C8H18O
reactant | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium | 0.1 g | [Na] | Na
solvent | ethanol | C(C)O | C2H6O
product | 2-Ethylhexyl 4-dimethylaminocinnamate | CN(C1=CC=C(C=CC(=O)OCC(CCCC)CC)C=C1)C | C19H29NO2
